US04968708
In 800 ml of n-butanol was dissolved 25.0 g of 2-amino-6-fluorobenzothiazole. With heating at 100° C., 25.0 g of propargyl bromide was dropwise added to the solution. After completion of the dropwise addition, the mixture was heated for 4 hours. The precipitated crystals were taken out by filtration and recrystallized from water to give 26.5 g of 2-imino-6-fluoro-3-propargylbenzothiazole hydrobromide. The hydrobromide, 26.5 g, was added to a mixture of 2.54 g of sodium and 70 ml of ethanol at room temperature followed by refluxing for one hour. After completion of the reaction, the solvent was removed and, water and ethyl acetate were added to the residue followed by separation. After 2N hydrochloric acid was added to the residue obtained from the ethyl acetate phase, water was evaporated to give 20.7 g of 7-fluoro-2-methylimidazo[2,1-b]benzothiazole hydrochloride.

reactant | 2-amino-6-fluorobenzothiazole | 25.0 g | NC=1SC2=C(N1)C=CC(=C2)F | C7H5FN2S
reactant | propargyl bromide | 25.0 g | C(C#C)Br | C3H3Br
solvent | n-butanol | 800 ml | C(CCC)O | C4H10O
product | 2-imino-6-fluoro-3-propargylbenzothiazole hydrobromide | 26.5 g | Br.N=C1SC2=C(N1CC#C)C=CC(=C2)F | InChI=1S/C10H7FN2S.BrH/c1-2-5-13-8-4-3-7(11)6-9(8)14-10(13)12;/h1,3-4,6,12H,5H2;1H
